US08372864B2
0.39 g of 5-bromo-2-(2-hydroxyethyl)-3,4-dihydroisoquinolin-1(2H)-one is dissolved under an inert atmosphere in 3 cm3 of dimethylsulfoxide at a temperature close to 20° C. 105 mg of finely ground potassium hydroxide are added. The reaction mixture is stirred for 30 min at a temperature close to 20° C., then 0.108 cm3 of iodomethane is introduced. The stirring is continued for 20 h at a temperature close to 20° C. 30 cm3 of water and 30 cm3 of ethyl ether are added. After decanting, the organic phase is washed with 30 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated using a rotary evaporator under reduced pressure (5 kPa). 170 mg of 5-bromo-2-(2-methoxyethyl)-3,4-dihydroisoquinolin-1(2H)-one are obtained in the form of a yellow oil.

reactant | 5-bromo-2-(2-hydroxyethyl)-3,4-dihydroisoquinolin-1(2H)-one | 0.39 g | BrC1=C2CCN(C(C2=CC=C1)=O)CCO | C11H12BrNO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | iodomethane | 0.108 cm3 | IC | CH3I
reactant | water | 30 cm3 | O | H2O
solvent | dimethylsulfoxide | 3 cm3 | CS(=O)C | C2H6OS
solvent | ethyl ether | 30 cm3 | C(C)OCC | C4H10O
product | 5-bromo-2-(2-methoxyethyl)-3,4-dihydroisoquinolin-1(2H)-one | 170 mg | BrC1=C2CCN(C(C2=CC=C1)=O)CCOC | C12H14BrNO2
